US04803200
β-[(2-Hydroxypropyl)amino]-α-phenylbenzeneethanol.
A mixture of trans-stilbene oxide (3.93 g, 0.20 mole) and 1-amino-2-propanol (4.51 g, 0.060 mole) was heated in an oil bath at 125° C. for 1 hour. After standing at ambient temperature for 18 hours, the viscous oil was dissolved in 20 ml of methanol and diluted with water causing a white solid to precipitate. The solid was collected, washed with water, and dried under ambient conditions to give 4.57 g (84%) of the product which was recrystallized from toluene to give 3.65 g solids; m.p. 116°-118° C.

reactant | trans-stilbene oxide | 0.20 mole, 3.93 g | C=1C=CC(=CC1)[C@@H]2[C@H](O2)C=3C=CC=CC3 | C14H12O
reactant | 1-amino-2-propanol | 0.060 mole, 4.51 g | NCC(C)O | C3H9NO
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | β-[(2-Hydroxypropyl)amino]-α-phenylbenzeneethanol | 4.57 g, 84% | OC(CNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1)C | C17H21NO2
